US06479524B1
b. 2,5-dimethyl-4-iodo-N-isopropyl-aniline
4.1 g (0.017 mol) of 2,5-dimethyl-4-iodo-aniline, 1.4 ml of (0.019 mol) of acetone, 1.4 ml of (0,024 mol) of glacial acetic acid and 0.1 g (0.001 mol) of p-toluenesulphonic acid are dissolved in 30 ml of tetrahydrofuran and stirred for 30 minutes at ambient temperature. Then 4.7 g (0.022 mol) of sodium triacetoxyborohydride are added and the mixture is stirred for another 20 hours at ambient temperature. After the addition of 150 ml of water, sodium carbonate is added until no further development of CO2 can be detected. The mixture is then extracted with ethyl acetate, the combined organic extracts are dried over sodium sulphate and evaporated down. The residue is chromatographed on silica gel, eluting with ethyl acetate/petroleum ether (2:98).

reactant | 2,5-dimethyl-4-iodo-aniline | 0.017 mol, 4.1 g | CC1=C(N)C=C(C(=C1)I)C | C8H10IN
reactant | acetone | 0.019 mol, 1.4 ml | CC(=O)C | C3H6O
reactant | acetic acid | 0,024 mol, 1.4 ml | C(C)(=O)O | C2H4O2
reactant | p-toluenesulphonic acid | 0.001 mol, 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium triacetoxyborohydride | 0.022 mol, 4.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 2,5-dimethyl-4-iodo-N-isopropyl-aniline | CC1=C(NC(C)C)C=C(C(=C1)I)C | C11H16IN
